US07071175B1
(e) 3-(6-Amino-pyridin-3-yl)-2-mercaptomethyl-2-methyl-propionic acid
2-Acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-2-methyl-propionic acid tert-butyl ester (4 mg, 9.4 μmol) was dissolved in conc. HCl under argon. The solution was heated to reflux for 1 h. Concentration under reduced pressure yielded the title compound as the hydrochloride salt (2.5 mg, 100%).

reactant | 2-Acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-2-methyl-propionic acid tert-butyl ester | 9.4 μmol, 4 mg | C(C)(C)(C)OC(C(CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)(C)CSC(C)=O)=O | C21H32N2O5S
solvent | HCl | Cl | ClH
product | 3-(6-Amino-pyridin-3-yl)-2-mercaptomethyl-2-methyl-propionic acid | NC1=CC=C(C=N1)CC(C(=O)O)(C)CS | C10H14N2O2S
